* Schematics Netlist *



R_Rd         0 Vout  10k  
C_Cin         0 $N_0001  25p  
V_V2         Vin 0 DC 0V AC 1V 
G_G1         Vout $N_0001 0 $N_0001 2.48e-3
R_Rs         Vin $N_0001  5k  
C_Cl         0 Vout  80p  
